US04478849
N-(2-[4-Carbomethoxyphenyl]-1,1-dimethylethyl)-2-hydroxy-2-(4-benzyloxy-3-hydroxymethylphenyl)ethanamine
The title compound was prepared by the process of Example 25, replacing phenyl glyoxal by 4-benzyloxy-3-hydroxymethylphenyl glyoxal and 2-(4-carbomethoxyphenyl) ethanamine by 2-(4-carbomethoxyphenyl)-1,1-dimethylethanamine. τ (d6DMSO) 9.06 (6H, s), 7.10-7.60 (5H, m), 6.20 (3H, s), 5.39 (2H, s), 5.00 (1H, m), 4.88 (2H, s), 3.04 (2H, d, J=8 Hz), 2.40-3.00 (10H, m), 2.12 (2H, d, J=8 Hz).

reactant | 4-benzyloxy-3-hydroxymethylphenyl glyoxal | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(=O)C=O)CO | C16H14O4
reactant | 2-(4-carbomethoxyphenyl) ethanamine | C(=O)(OC)C1=CC=C(C=C1)CCN | C10H13NO2
reactant | 2-(4-carbomethoxyphenyl)-1,1-dimethylethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(N)(C)C | C12H17NO2
product | N-(2-[4-Carbomethoxyphenyl]-1,1-dimethylethyl)-2-hydroxy-2-(4-benzyloxy-3-hydroxymethylphenyl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)(C)NCC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO)O | C28H33NO5
